US08476224B2
To a solution of 4-benzyloxycarbonylamino-cyclohexanecarboxylic acid (8.0 g, 28.78 mmol) in DCM (35 mL) and DMF (35 mL) is added t-butanol (10 mL, 105.4 mmol) and DMAP (1.4 g, 11.50 mmol). DIPC (10 mL) is added portionwise over 1 h. The resulting mixtures stirs 18 h. The mixture is mounted onto SiO2 and purified by flash chromatography (gradient elution: 0-60% EtOAc/Hep) which affords 5.2 g of 4-benzyloxycarbonylamino-cyclohexanecarboxylic acid tert-butyl ester. 1H NMR (400 MHz, DMSO-D6) δ ppm 1.14 (m, 2 H) 1.30 (m, 2 H) 1.38 (m, 9 H) 1.82 (m, 4 H) 2.07 (m, 1 H) 3.20 (m, 1 H) 3.47 (m, 3 H) 4.99 (m, 2 H) 7.27 (m, 5 H).

reactant | 4-benzyloxycarbonylamino-cyclohexanecarboxylic acid | 28.78 mmol, 8.0 g | C(C1=CC=CC=C1)OC(=O)NC1CCC(CC1)C(=O)O | C15H19NO4
reactant | t-butanol | 105.4 mmol, 10 mL | C(C)(C)(C)O | C4H10O
reactant | DIPC | 10 mL | CC(N=C=NC(C)C)C | C7H14N2
solvent | DCM | 35 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 35 mL | CN(C)C=O | C3H7NO
catalyst | DMAP | 11.50 mmol, 1.4 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | 4-benzyloxycarbonylamino-cyclohexanecarboxylic acid tert-butyl ester | 5.2 g | C(C)(C)(C)OC(=O)C1CCC(CC1)NC(=O)OCC1=CC=CC=C1 | C19H27NO4
